US07157488B2
5-Methoxycarbonyltryptamine
Combine 3-(2-nitroethyl)-5-methoxycarbonyl-1H-indole (280 mg, 1.1 mmol), PtO2 (200 mg) and 15 mL MeOH and hydrogenate at atmospheric pressure overnight. Filter reaction mixture through a pad of celite, concentrate the filtrate, and chromatograph on silica gel eluting with 5% MeOH in CHCl3 mixed with conc. NH4OH to give the title compound as an oil: ISMS 219 (M+1); 1H NMR (CDCl3) 9.01 (s, 1H), 8.36 (s, 1H), 7.88–7.85 (m, 1H), 7.32–7.24 (m, 1H), 7.05 (s, 1H), 3.91 (s, 3H), 3.05–3.01 (m, 2H), 2.93–2.89 (m, 2H), 1.22 (bs, 2H).

reactant | 3-(2-nitroethyl)-5-methoxycarbonyl-1H-indole | 1.1 mmol, 280 mg | [N+](=O)([O-])CCC1=CNC2=CC=C(C=C12)C(=O)OC | C12H12N2O4
catalyst | PtO2 | 200 mg | O=[Pt]=O
solvent | MeOH | 15 mL | CO | CH4O
product | 5-Methoxycarbonyltryptamine | COC(=O)C1=CC=C2NC=C(CCN)C2=C1 | C12H14N2O2
